US07008962B2
3-(2,3-dichloroanilino)-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione
To a solution of 3-ethoxy-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione (100 mg, 0.43 mmol) in toluene (2 mL) and DMSO (1 drop) was added 2,3-dichloroaniline (0.07 mL, 0.43 mmol) and reaction was stirred at 110° C. overnight. The resulting solid was collected by filtration, washed with ethyl acetate to remove toluene and dried in vacuo. LC-MS (m/z) 349 (M+).

reactant | 3-ethoxy-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione | 0.43 mmol, 100 mg | C(C)OC=1C(C(C1NC1=C(C=CC=C1)O)=O)=O | C12H11NO4
reactant | 2,3-dichloroaniline | 0.43 mmol, 0.07 mL | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMSO | 1 drop | CS(=O)C | C2H6OS
product | 3-(2,3-dichloroanilino)-4-(2-hydroxyanilino)-cyclobut-3-ene-1,2-dione | ClC1=C(NC=2C(C(C2NC2=C(C=CC=C2)O)=O)=O)C=CC=C1Cl | C16H10Cl2N2O3
